US06403561B1
Preparation of 1-(N-benzyloxycarbonyl-2(S)-aminobutyryl)-3,3-dimethylindoline-2(R/S)-carboxylic Acid Butylamide
3,3-Dimethylindoline-2(R/S)-carboxylic acid butylamide (1.000 g, 4.08 mmol) and N-benzyloxycarbonyl-2(S)-aminobutyric acid (1.451 g, 6.12 mmol) were dissolved in dry tetrahydrofuran (25 ml). The solution was cooled to 0° C. and triethylamine (2.44 ml, 13.78 mmol) and bis(2-oxo-3-oxazolidinyl)phosphinyl chloride (2.338 g, 9.183 mmol) were added. The mixture was stirred at room temperature for 22 hours and ethyl acetate (40 ml) was then added, and the mixture was washed with 3N hydrochloric acid (3×50 ml), 5% sodium bicarbonate (3×50 ml) and water (50 ml) and dried over sodium sulphate. After removing the solvent, several successive purifications by chromatography on a column of silica gel gave the product in the form of an off-white solid.

reactant | 3,3-Dimethylindoline-2(R/S)-carboxylic acid butylamide | 4.08 mmol, 1.000 g | C(CCC)NC(=O)C1NC2=CC=CC=C2C1(C)C | C15H22N2O
reactant | N-benzyloxycarbonyl-2(S)-aminobutyric acid | 6.12 mmol, 1.451 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC | C12H15NO4
reactant | triethylamine | 13.78 mmol, 2.44 ml | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinyl chloride | 9.183 mmol, 2.338 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 1-(N-benzyloxycarbonyl-2(S)-aminobutyryl)-3,3-dimethylindoline-2(R/S)-carboxylic Acid Butylamide | C(CCC)NC(=O)C1N(C2=CC=CC=C2C1(C)C)C([C@H](CC)NC(=O)OCC1=CC=CC=C1)=O | C27H35N3O4
